US04200313
Following a procedure similar to that described in Example 1 but employing 15.6 g of 5-(dimethylamino)-2-[4-(dimethylamino)benzoyl]benzoic acid and 19.6 g of 4,4'-dioctyldiphenylamine there was obtained 30.0 g of 6-(dimethylamino)-3-[4-(dimethylamino)phenyl]-3-[bis(4-octylphenyl)amino]phthalide, m.p. 208°-210° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed an orange-colored image which changed to green on the clay after fluorescent light exposure.

reactant | 5-(dimethylamino)-2-[4-(dimethylamino)benzoyl]benzoic acid | 15.6 g | CN(C=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)N(C)C)=O)C | C18H20N2O3
reactant | 4,4'-dioctyldiphenylamine | 19.6 g | CCCCCCCCC1=CC=C(C=C1)NC2=CC=C(C=C2)CCCCCCCC | C28H43N
product | 6-(dimethylamino)-3-[4-(dimethylamino)phenyl]-3-[bis(4-octylphenyl)amino]phthalide | 30.0 g | CN(C1=CC=C2C(OC(=O)C2=C1)(N(C1=CC=C(C=C1)CCCCCCCC)C1=CC=C(C=C1)CCCCCCCC)C1=CC=C(C=C1)N(C)C)C | C46H61N3O2
